* C:\Users\joa-m\INFORMES_ASSD\TP1\EJ1\Con555\oscilador.asc
XU1 0 N004 N002 +VCC N006 N004 N005 +VCC NE555
V1 +VCC 0 15V
J1 +VCC N001 P001 2N4393
J2 TR N004 +VCC 2N4393
R1 P001 N001 2k
D1 N001 N002 1N4148
D2 N001 N004 1N4148
C1 N004 0 0.01µ
R2 TR 0 10k
R3 N005 N004 10k
C2 N006 0 0.01µ
RL +VCC N003 20k
XU3 RF TR +VCC -VCC N003 -VCC LM111
R4 RF +VCC 900
R5 0 RF 1150
V2 0 -VCC 15V
XU2 0 cap N009 +VCC N010 cap N008 +VCC NE555
R6 +VCC P002 8000
R7 N007 0 2.2k
C3 cap 0 100pf
D4 N010 N009 1N4148
Q1 cap N007 P002 0 2N3906
R8 cap N008 500
D6 N007 +VCC 1N750
.model D D
.lib C:\Users\joa-m\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\joa-m\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\joa-m\Documents\LTspiceXVII\lib\cmp\standard.jft
.inc "C:\Users\joa-m\INFORMES_ASSD\TP1\EJ1\Con555\TL082.301"
.tran 0 6u 0
.inc "C:\Users\joa-m\INFORMES_ASSD\TP1\EJ1\Con555\LM111.301"
.lib NE555.sub
.backanno
.end
